US08242153B2
In analogy to example 1d (S)-2-amino-4-[1-(4-chloro-phenyl)-cyclopropyl]-butan-1-ol was reacted with cyanogen bromide to give (S)-4-{2-[1-(4-chloro-phenyl)-cyclopropyl]-ethyl}-4,5-dihydro-oxazol-2-ylamine. White solid. MS (ISP): 265.1 ([M+H]+))

reactant | (S)-2-amino-4-[1-(4-chloro-phenyl)-cyclopropyl]-butan-1-ol | N[C@H](CO)CCC1(CC1)C1=CC=C(C=C1)Cl | C13H18ClNO
reactant | cyanogen bromide | N#CBr | CBrN
product | (S)-4-{2-[1-(4-chloro-phenyl)-cyclopropyl]-ethyl}-4,5-dihydro-oxazol-2-ylamine | ClC1=CC=C(C=C1)C1(CC1)CC[C@@H]1N=C(OC1)N | C14H17ClN2O
